US07816397B2
Methyl 2-[5-(2-aminophenyl)pentyl]benzoate
36 g (0.11 M) of methyl 2-[5-(2-nitrophenyl)pentyl]benzoate and 4 g of palladium-on-charcoal are added to 400 ml of methanol in a 1000 ml stainless-steel autoclave. The reaction medium is then stirred under hydrogen pressure (10 bar) at 70° C. for 3 hours.

reactant | methyl 2-[5-(2-nitrophenyl)pentyl]benzoate | 0.11 M, 36 g | [N+](=O)([O-])C1=C(C=CC=C1)CCCCCC1=C(C(=O)OC)C=CC=C1 | C19H21NO4
catalyst | palladium-on-charcoal | 4 g | [Pd] | Pd
solvent | methanol | 400 ml | CO | CH4O
product | Methyl 2-[5-(2-aminophenyl)pentyl]benzoate | NC1=C(C=CC=C1)CCCCCC1=C(C(=O)OC)C=CC=C1 | C19H23NO2
